US08124633B2
Step A: N-Methoxy-N-methyl-2-(2-methylphenyl)acetamide
To a solution of (2-methylphenyl)acetic acid in dry methylene chloride (16.7 g, 108.4 mmol) under nitrogen atmosphere was added N,O-dimethylhydroxylamine (13.8 g, 141.5 mmol), triethylamine (20 mL, 143.8 mmol), 4-dimethylaminopyridine (DMAP, 14.2 g, 119.3 mmol) and EDC (27 g, 140.6 mmol). The reaction mixture was stirred at RT for 2 hr then transferred to a separation funnel. The mixture was washed consecutively with 2 N aq. HCl, brine, saturated aq. NaHCO3 and brine. The organic layer was dried over MgSO4, filtered and the solvent evaporated under vacuum to give 21 g of the crude title compound which was used without further purification. 1H-NMR (CDCl3): δ: 7.20 (4H, m), 3.80 (2H, s), 3.65 (2H, s), 3.65 (3H, s), 2.34 (3H, m).

reactant | (2-methylphenyl)acetic acid | CC1=C(C=CC=C1)CC(=O)O | C9H10O2
reactant | methylene chloride | 108.4 mmol, 16.7 g | C(Cl)Cl | CH2Cl2
reactant | N,O-dimethylhydroxylamine | 141.5 mmol, 13.8 g | CNOC | C2H7NO
reactant | triethylamine | 143.8 mmol, 20 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 140.6 mmol, 27 g
catalyst | 4-dimethylaminopyridine | 119.3 mmol, 14.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Methoxy-N-methyl-2-(2-methylphenyl)acetamide | 21 g | CON(C(CC1=C(C=CC=C1)C)=O)C | C11H15NO2
